US07244758B2
A. Synthesis of (1-Benzyl-pyrrolidin-3-ylmethyl)-methyl-amine
To a cooled (−5° C.) and stirred solution of LAH (1 M, 7.6 ml) in dry THF (75 ml) was added a solution of (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester (1.47 g, 5.06 mmol) in THF (22 ml) over 20 minutes. The mixture was then heated at reflux for 2.5 hrs and cooled to room temperature and quenched by successive addition of ethyl acetate (50 ml). The organic layer was then washed with water (2×), 10% NaOH and brine, dried and evaporated to give the desired product in 90% yield.

reactant | LAH | 1 M, 7.6 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (1-benzyl-pyrrolidin-3-ylmethyl)-carbamic acid tert-butyl ester | 5.06 mmol, 1.47 g | C(C)(C)(C)OC(NCC1CN(CC1)CC1=CC=CC=C1)=O | C17H26N2O2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | (1-Benzyl-pyrrolidin-3-ylmethyl)-methyl-amine | 90% yield | C(C1=CC=CC=C1)N1CC(CC1)CNC | C13H20N2
